US09416135B2
To a solution of 6-(methylthio)-1H-indole (1 g, 6.13 mmol), NaOH (4.90 g, 122.6 mmol) and Bu4NHSO4 (207.8 mg, 0.613 mmol) in dichloromethane (20 mL) was added benzenesulfonyl chloride (1.29 g, 7.36 mmol). The reaction mixture was stirred at rt overnight. The mixture was quenched with water (30 mL) and extracted with dichloromethane (30 mL×3). The combined organic layers were dried over anhydrous sodium sulfate, filtered, concentrated and purified by column chromatography on silica gel eluted with PE/EtOAc 10:1 to afford 6-(methylthio)-1-(phenylsulfonyl)-1H-indole (1.1 g, 59.18% yield) as a white solid. LC-MS MS (ESI) m/z 304.0 [M+H]+. 1H NMR (CDCl3 400 MHz): δ 7.93-7.75 (m, 3H), 7.58-7.41 (m, 5H), 7.17 (dd, J1=8.0 Hz, J2=1.6 Hz, 1H), 6.63-6.60 (m, 1H), 2.53 (s, 3H).

reactant | 6-(methylthio)-1H-indole | 6.13 mmol, 1 g | CSC1=CC=C2C=CNC2=C1 | C9H9NS
reactant | NaOH | 122.6 mmol, 4.90 g | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 7.36 mmol, 1.29 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | Bu4NHSO4 | 0.613 mmol, 207.8 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-(methylthio)-1-(phenylsulfonyl)-1H-indole | 1.1 g, 59.18% yield | CSC1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1 | C15H13NO2S2
